US07402608B2
A mixture of 3-(2-Hydroxy-1-methyl-ethylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester (213 mg, 0.257 mmol), diethyldiazodicarboxylate (250 μL, 1.59 mmol, 2 eq), diphenylphosphoryl azide (343 μL, 1.59 mmol, 2 eq) and trphenyl phosphine (417 mg, 1.59 mmol, 2 eq) was stirred at 21° until all starting alcohol was consumed. The reaction was evaporated to dryness and the crude residue purified on biotage with 5% EtOAc/hexane followed by 100% toluene as eluent. 3-(2-Azido-1-methyl-ethylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester was isolated as a solid (181 mg, 78%); 1H NMR (300 MHz, CDCl3) 1.33 (d, J=6.6 Hz, 3H), 3.38-3.46 (m, 2H), 3.78-3.81 (m, 1H), 6.82 (s, 1H), 7.36-7.41 (m, 3H), 7.60-7.62 (m, 2H).

reactant | 3-(2-Hydroxy-1-methyl-ethylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | 0.257 mmol, 213 mg | COC(=O)C=1SC(=CC1NC(CO)C)C1=CC=CC=C1 | C15H17NO3S
reactant | diethyldiazodicarboxylate | 1.59 mmol, 250 μL, 2 eq | C(C)OC(=O)[N+](=[N-])C(=O)OCC | C6H10N2O4
reactant | diphenylphosphoryl azide | 1.59 mmol, 343 μL, 2 eq | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | phosphine | 1.59 mmol, 417 mg, 2 eq | P | H3P
product | 3-(2-Azido-1-methyl-ethylamino)-5-phenyl-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1NC(CN=[N+]=[N-])C)C1=CC=CC=C1 | C15H16N4O2S
